US06086905
Preparation of N-octanoyl-tetrahydro-2H-1,3-oxazin-2-one
This compound was prepared following the procedure of Example 1 wherein tetrahydro-2H-1,3-oxazin-2-one was used in place of 2-oxazolidone and octanoyl chloride was used in the place of lauroyl chloride.

reactant | tetrahydro-2H-1,3-oxazin-2-one | O1C(NCCC1)=O | C4H7NO2
reactant | octanoyl chloride | C(CCCCCCC)(=O)Cl | C8H15ClO
product | N-octanoyl-tetrahydro-2H-1,3-oxazin-2-one | C(CCCCCCC)(=O)N1C(OCCC1)=O | C12H21NO3
